US06995144B2
After dissolving 517 mg of (1-benzylpiperidin-4-yl)-(1,3-dihydroisobenzofuran-1-yl)methanone in 5 ml of 1,2-dichloroethane, 0.49 ml of 1-chloroethyl chloroformate was added and the mixture was heated to reflux for 1 hour. The reaction solution was distilled off under reduced pressure, 5 ml of methanol was added to the residue and heating to reflux was continued for 1 hour. The reaction solution was distilled off under reduced pressure, saturated aqueous sodium bicarbonate solution was added and extraction was performed with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure to obtain 104 mg of (1,3-dihydroisobenzofuran-1-yl)-(piperidin-4-yl)methanone hydrochloride.

reactant | (1-benzylpiperidin-4-yl)-(1,3-dihydroisobenzofuran-1-yl)methanone | 517 mg | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)C1OCC2=CC=CC=C12 | C21H23NO2
reactant | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | 1-chloroethyl chloroformate | 0.49 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | (1,3-dihydroisobenzofuran-1-yl)-(piperidin-4-yl)methanone hydrochloride | 104 mg | Cl.C1(OCC2=CC=CC=C12)C(=O)C1CCNCC1 | InChI=1S/C14H17NO2.ClH/c16-13(10-5-7-15-8-6-10)14-12-4-2-1-3-11(12)9-17-14;/h1-4,10,14-15H,5-9H2;1H
